US07217730B2
4-Bromo-5-fluoro-7-methyl Tryptophol
To a solution of 5-bromo-4-fluoro-2-methylphenylhydrazine hydrochloride (4.75 g, 18.6 mmol) in 20% aqueous THF (100 mL) at 0° C. was added dropwise a solution of 2,3-dihydrofuran (1.55 mL, 20.4 mmol) in THF (10 mL). After stirring for 2 hours at 0° C. and 12 hours at room temperature, the reaction mixture was diluted with ether (100 mL). The organic solution was washed with saturated NaHCO3 (2×100 mL) and brine (100 mL), dried (Na2SO4) and concentrated. The residue was dissolved in ethylene glycol (50 mL), treated with ZnCl2 (5.58 g, 40.9 mmol), and heated at 170° C. for 4 hours. The reaction mixture was cooled down to room temperature and 6 N HCl (100 mL) was added. The mixture was extracted with ether (3×100 mL) and washed with water (200 mL) and brine (200 mL). The organic solution was dried over Na2SO4 and concentrated. The residue was purified by flash chromatography (silica, 40% EtOAc in hexanes) to give 1.52 g (30%) of title compound containing inseparable impurities (<20%) as a light brown oil. 1H NMR (CDCl3): 300 MHz δ 8.68 (bs, 1H), 7.06 (d, J=2.4 Hz, 1H), 6.76 (d, J=9.63 Hz, 1H), 3.92 (t, J=6.48 Hz, 2H), 3.21 (t, J=6.48 Hz, 2H), 2.35 (s, 3H), 2.27 (bs, 1H).

reactant | 5-bromo-4-fluoro-2-methylphenylhydrazine hydrochloride | 18.6 mmol, 4.75 g | Cl.BrC=1C(=CC(=C(C1)NN)C)F
reactant | 2,3-dihydrofuran | 20.4 mmol, 1.55 mL | O1CCC=C1 | C4H6O
reactant | HCl | 6 N, 100 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
catalyst | ZnCl2 | 40.9 mmol, 5.58 g | [Cl-].[Cl-].[Zn+2]
product | 4-Bromo-5-fluoro-7-methyl Tryptophol | 1.52 g, 30% | CC12C=C(C(=CC1=NC=C2CCO)Br)F | C11H11BrFNO
